US08278335B2
Step 2. 2-Bromo-6-isopropenylpyridine
A solution of 2-(6-bromopyridin-2-yl)propan-2-ol (2.44 g, 11.29 mmol) and methansulfonic anhydride (5.90 g, 33.9 mmol) in dichloromethane (35 mL) was charged with triethylamine (6.26 ml, 45.2 mmol). After three hours, the reaction mixture was partitioned between ethyl acetate (50 mL) and saturated aqueous sodium bicarbonate (25 mL). The layers were separated and the organic layer was washed with saturated aqueous sodium bicarbonate (25 mL) and brine (2×25 mL), dried over sodium sulfate, filtered, and concentrated. The resulting yellow liquid was purified by silica gel chromatography (2-20% ethyl acetate/hexanes) to afford the title compound. 1H NMR (600 MHz, d6-DMSO): δ 7.70 (t, 1H), 7.61 (d, 1H), 7.49 (d, 1H), 5.89 (s, 1H), 5.33 (s, 1H), 2.06 (s, 3H).

reactant | 2-(6-bromopyridin-2-yl)propan-2-ol | 11.29 mmol, 2.44 g | BrC1=CC=CC(=N1)C(C)(C)O | C8H10BrNO
reactant | methansulfonic anhydride | 33.9 mmol, 5.90 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | triethylamine | 45.2 mmol, 6.26 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 35 mL | ClCCl | CH2Cl2
product | 2-Bromo-6-isopropenylpyridine | BrC1=NC(=CC=C1)C(=C)C | C8H8BrN
